### PR TITLE
[Merged by Bors] - feat(MeasureTheory): add CountablySeparated

### PR DESCRIPTION
**Pull request by Felix-Weilacher**
add a typeclass `CountablySeparated _` abbreviating `HasCountableSeparatingOn _ MeasurableSet univ`. This is a common assumption is measure theory and is already used often in the library. 

Additionally, mathlib was previously not consistent in choosing between the equivalent spellings `HasCountableSeparatingOn X MeasurableSet s` and `HasCountableSeparatingOn s MeasurableSet univ` for X a measurable space and `s : Set X`. (In the latter spelling, `s` is being coerced to the subtype of `X`.) Lemmas and instances are added to help unify the situation.  This is now spelled `CountablySeparated s`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 1]
```diff
@@ -166,35 +166,73 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
...
-instance (priority := 100) [MeasurableSpace α] {s : Set α}
-    [h : CountablyGenerated s] [SeparatesPoints s] :
-    HasCountableSeparatingOn α MeasurableSet s := by
-  suffices HasCountableSeparatingOn s MeasurableSet univ from this.of_subtype fun _ ↦ id
-  rcases h.1 with ⟨b, hbc, hb⟩
+instance countablySeparated_subtype_of_hasCountableSeparatingOn
+    [MeasurableSpace α] {s : Set α} [h : CountablySeparated s] :
+    HasCountableSeparatingOn _ MeasurableSet s := CountablySeparated.subtype_iff.mp h
+
+instance hasCountableSeparatingPn_of_countablySeparated_subtype
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:216]: Name reversed here as well:
```suggestion
instance countablySeparated_subtype_of_hasCountableSeparatingOn
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 2]
```diff
@@ -166,35 +166,73 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
...
+    [h : CountablySeparated α] : HasCountableSeparatingOn α MeasurableSet univ :=
+  h.countably_separated
+
+theorem countablySeparated_def [MeasurableSpace α] :
+    CountablySeparated α ↔ HasCountableSeparatingOn α MeasurableSet univ :=
+  ⟨fun h => h.countably_separated, fun h => ⟨h⟩⟩
+
+theorem CountablySeparated.mono {m m' : MeasurableSpace α} [hsep : @CountablySeparated _ m]
+    (h : m ≤ m') : @CountablySeparated _ m' := by
+  simp_rw[countablySeparated_def] at *
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:187]:
```suggestion
  simp_rw [countablySeparated_def] at *
```

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 3]
```diff
@@ -320,9 +320,10 @@ theorem IsOpen.measurableSet (h : IsOpen s) : MeasurableSet s :=
   OpensMeasurableSpace.borel_le _ <| GenerateMeasurable.basic _ h
 #align is_open.measurable_set IsOpen.measurableSet
 
-instance (priority := 500) {s : Set α} [HasCountableSeparatingOn α IsOpen s] :
-    HasCountableSeparatingOn α MeasurableSet s :=
-  .mono (fun _ ↦ IsOpen.measurableSet) Subset.rfl
+instance (priority := 1000) {s : Set α} [h : HasCountableSeparatingOn α IsOpen s] :
+    CountablySeparated s := by
+    rw[CountablySeparated.subtype_iff]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:325]:
```suggestion
    rw [CountablySeparated.subtype_iff]
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 4]
```diff
@@ -166,35 +166,73 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
...
+instance countablySeparated_of_hasCountableSeparatingOn [MeasurableSpace α]
+    [h : HasCountableSeparatingOn α MeasurableSet univ] : CountablySeparated α := ⟨h⟩
+
+instance hasCountableSeparatingOn_of_countablySeparated [MeasurableSpace α]
+    [h : CountablySeparated α] : HasCountableSeparatingOn α MeasurableSet univ :=
+  h.countably_separated
+
+theorem countablySeparated_def [MeasurableSpace α] :
+    CountablySeparated α ↔ HasCountableSeparatingOn α MeasurableSet univ :=
+  ⟨fun h => h.countably_separated, fun h => ⟨h⟩⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:183]: Could you replace `=>` by `↦` for functions everywhere in you code?
```suggestion
  ⟨fun h ↦ h.countably_separated, fun h ↦ ⟨h⟩⟩
```
I checked the style guide to be sure it's not just my personal preference: https://leanprover-community.github.io/contribute/style.html contains "The Lean default for this is `fun x => x * x`, but the `↦` arrow (inserted with \mapsto) is also valid. In mathlib the pretty printer displays `↦`, and we slightly prefer this in the source as well."

There are many `=>` still in mathlib but they are mostly due to the automatic Lean3 to Lean4 translation done by mathport.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 5]
```diff
@@ -248,34 +286,25 @@ theorem measurableEquiv_nat_bool_of_countablyGenerated [MeasurableSpace α]
...
   refine ⟨mapNatBool α, ?_, injective_mapNatBool _⟩
   exact (measurable_mapNatBool _).mono m'le le_rfl
 
 variable {α}
 
 --TODO: Make this an instance
-theorem measurableSingletonClass_of_hasCountableSeparatingOn
-    [MeasurableSpace α] [HasCountableSeparatingOn α MeasurableSet univ] :
+theorem measurableSingletonClass_of_countablySeparated
+    [MeasurableSpace α] [CountablySeparated α] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:299]: Did you check if the todo of the line above still causes issues? (TODO: make this an instance)

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 6]
```diff
@@ -248,34 +286,25 @@ theorem measurableEquiv_nat_bool_of_countablyGenerated [MeasurableSpace α]
...
-  rcases measurable_injection_nat_bool_of_hasCountableSeparatingOn α with ⟨f, fmeas, finj⟩
+  rcases measurable_injection_nat_bool_of_countablySeparated α with ⟨f, fmeas, finj⟩
   refine ⟨fun x ↦ ?_⟩
   rw [← finj.preimage_image {x}, image_singleton]
   exact fmeas $ MeasurableSet.singleton _
 
 end SeparatesPoints
 
-instance [MeasurableSpace α] {s : Set α} [h : CountablyGenerated s] [MeasurableSingletonClass s] :
-    HasCountableSeparatingOn α MeasurableSet s := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:272]: Just checking that I understand the reason for the removal of this instance: that's not needed anymore because the hypotheses imply SeparatesPoints, and CountablyGenerated + SeparatesPoints imply CountablySeparated?

**Review by RemyDegenne — COMMENTED** [review]
It looks good!

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 7]
```diff
@@ -320,9 +320,10 @@ theorem IsOpen.measurableSet (h : IsOpen s) : MeasurableSet s :=
   OpensMeasurableSpace.borel_le _ <| GenerateMeasurable.basic _ h
 #align is_open.measurable_set IsOpen.measurableSet
 
-instance (priority := 500) {s : Set α} [HasCountableSeparatingOn α IsOpen s] :
-    HasCountableSeparatingOn α MeasurableSet s :=
-  .mono (fun _ ↦ IsOpen.measurableSet) Subset.rfl
+instance (priority := 1000) {s : Set α} [h : HasCountableSeparatingOn α IsOpen s] :
```
[the remark this answers is not in the document]
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:323]: I increased it because some proofs in Constructions.Polish were timing out. You can see these in the result of CI on [this commit](https://github.com/leanprover-community/mathlib4/pull/12433/commits/73d6643f1fd2596d564b3b1687420ca81ab7a1cd)

I did not put any thought into the specific value other than making it higher. I do think it makes sense for the priority to be quite high. This plus [instHasCountableSeparatingOnIsOpen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/CountableSeparatingOn.html#instHasCountableSeparatingOnIsOpen) should almost always be how instances of `CountableSeparated` are generated for Borel spaces.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 4 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: I think I got them all, thanks.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 6 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:272]: Indeed, `inferInstance` is able to prove this. 

This might not have been true previously since `HasCountableSeparatingOn _ MeasurableSet s` is not defeq to `HasCountableSeparatingOn s MeasurableSet univ`

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
